US04945099
7-(4-Acetyl-2-ethyl-5-hydroxyphenoxy)-2,2-dimethylheptanamide
A mixture of 500 mg of 7-(4-acetyl-2-ethyl-5-hydroxyphenoxy)-2,2-dimethylheptanenitrile in 150 ml of 5N sodium hydroxide and 50 ml of ethanol was heated at reflux overnight. The ethanol was removed by evaporation, 100 ml of water were added, and the solution was extracted with diethyl ether. The organic layer was separated, dried, and concentrated in vacuo. The residue was purified by preparative thin layer chromatography over silica gel eluting with 1:1 ethyl acetate/hexane to provide 34 mg of the desired title product, m.p.=73°-74° C.

reactant | 7-(4-acetyl-2-ethyl-5-hydroxyphenoxy)-2,2-dimethylheptanenitrile | 500 mg | C(C)(=O)C1=CC(=C(OCCCCCC(C#N)(C)C)C=C1O)CC | C19H27NO3
reactant | sodium hydroxide | 5N, 150 ml | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 7-(4-Acetyl-2-ethyl-5-hydroxyphenoxy)-2,2-dimethylheptanamide | 34 mg | C(C)(=O)C1=CC(=C(OCCCCCC(C(=O)N)(C)C)C=C1O)CC | C19H29NO4
